US05716971
A solution of 2-bromo-4-methylphenol methoxymethyl ether (9.49 g) in diethyl ether (170 ml) was cooled to -78° C. To the solution was added dropwise a 1.6M solution of n-butyl lithium hexane solution (30 ml) under argon atmosphere. The mixture was stirred for 45 minutes, to which was then added dropwise 2-cyano-3-trimethylsilyloxy pyridine (8.13 g) at -78° C. Then, the cooling bath was removed, and the mixture was stirred for 3 hours while warming up to room temperature. To the reaction mixture was added methanol (10 ml) to quench the reaction, then the solvent was distilled off under reduced pressure. To the residue were added methanol (100 ml), THF (25 ml) and 2N HCl (60 ml). The mixture was stirred overnight at room temperature, which was then heated for 2 hours under reflux. The reaction mixture was cooled by aeration, which was neutralized with an aqueous solution of sodium hydroxide, which was concentrated, followed by extraction with ethyl acetate. The extract was dried (anhydrous magnesium sulfate), then the solvent was distilled off, and the residue was purified by means of a silica gel column chromatography (eluted with ethyl acetate/hexane) to give 2-(2-hydroxy-5-methylbenzoyl)-3-hydroxypyridine (7.72 g) (Compound A-4), whose physical properties and spectrum data are shown in Table 1 and Table 3.

reactant | 2-bromo-4-methylphenol methoxymethyl ether | 9.49 g | COCOC1=C(C=C(C=C1)C)Br | C9H11BrO2
reactant | n-butyl lithium hexane | 30 ml | CCCCCC.C(CCC)[Li]
reactant | 2-cyano-3-trimethylsilyloxy pyridine | 8.13 g | C(#N)C1=NC=CC=C1O[Si](C)(C)C | C9H12N2OSi
reactant | diethyl ether | 170 ml | C(C)OCC | C4H10O
product | 2-(2-hydroxy-5-methylbenzoyl)-3-hydroxypyridine | 7.72 g | OC1=C(C(=O)C2=NC=CC=C2O)C=C(C=C1)C | C13H11NO3
